US04610819
2-Chloro-N-[4-(dimethylamino)-2-hydroxybutyl]-3-pyridinecarboxamide monohydrochloride
To a suspension of 11.9 g (0.076 mole) of 2-chloronicotinic in 200 ml of methylene chloride was added 10.2 g (0.076 mole) of 1-hydroxybenzotriazole, 10 g (0.076 mole) of 1-amino-4-(dimethylamino)-2-butanol, and 15.6 g (0.076 mole) of dicyclohexylcarbodiimide. The resulting solution was stirred at room temperature1 for 6 hrs and allowed to stand for 66 hrs. The resulting mixture was filtered and the filtrate concentrated on the rotary evaporator. The residue was shaken with a mixture of dilute hydrochloric acid and isopropyl ether. The resulting 3 phase system (1 solid, 2 liquid) was filtered and the solid discarded. The aqueous layer was separated, made basic with sodium hydroxide and extracted 3 times with chloroform. The chloroform extracts were combined, dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in isopropyl alcohol and acidified with ethereal hydrogen chloride. The resulting precipitate was dissolved by heating and adding methanol. The crystals obtained on cooling were recrystallized from ethanol. Yield of title compound was 9.6 g (41%), m.p. 182°-192° C.

reactant | 1-hydroxybenzotriazole | 0.076 mole, 10.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-amino-4-(dimethylamino)-2-butanol | 0.076 mole, 10 g | NCC(CCN(C)C)O | C6H16N2O
reactant | dicyclohexylcarbodiimide | 0.076 mole, 15.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[4-(dimethylamino)-2-hydroxybutyl]-3-pyridinecarboxamide monohydrochloride | Cl.ClC1=NC=CC=C1C(=O)NCC(CCN(C)C)O | InChI=1S/C12H18ClN3O2.ClH/c1-16(2)7-5-9(17)8-15-12(18)10-4-3-6-14-11(10)13;/h3-4,6,9,17H,5,7-8H2,1-2H3,(H,15,18);1H
